US05660598
A mixture of N-(1-methylhexyl)aniline (76 parts), 1-bromobutane (66 parts), anhydrous potassium carbonate (65 parts) and DMF (150 parts) was stirred while heating under reflux for 41 hours. An additional quantity of 1-bromobutane (44 parts) was added and the mixture stirred while heating under reflux for a further 19 hours. The cooled mixture was poured into water (400 parts) and the organic phase separated. The aqueous phase was extracted with toluene, the organic phases and toluene extract were combined and washed with water (2×100 parts) before evaporating to leave N-butyl-N-(1-methylhexyl)aniline (72.8 parts, 44%) which was purified by vacuum distillation to give N-butyl-N-(1-methylhexyl)aniline b.pt 73°-80° C., 2.6 mm Hg.

reactant | N-(1-methylhexyl)aniline | CC(CCCCC)NC1=CC=CC=C1 | C13H21N
reactant | 1-bromobutane | BrCCCC | C4H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-butyl-N-(1-methylhexyl)aniline | 44% | C(CCC)N(C1=CC=CC=C1)C(CCCCC)C | C17H29N
